US05047411
A solution of 2-amino-4-methylpyrimidine (32.74 g) in acetic anhydride (150 ml) was refluxed for one hour under stirring. To the above solution was added 4-nitrobenzaldehyde (49.8 g) and the resultant mixture was refluxed for 7 hours under stirring. The reaction mixture was cooled and the precipitate was collected by filtlation. The residue was washed with diethyl ether to give 2-acetamido-4-[2-(4-nitrophenyl)vinyl]pyrimidine (72.7 g).

reactant | 2-amino-4-methylpyrimidine | 32.74 g | NC1=NC=CC(=N1)C | C5H7N3
reactant | 4-nitrobenzaldehyde | 49.8 g | [N+](=O)([O-])C1=CC=C(C=O)C=C1 | C7H5NO3
reactant | acetic anhydride | 150 ml | C(C)(=O)OC(C)=O | C4H6O3
product | 2-acetamido-4-[2-(4-nitrophenyl)vinyl]pyrimidine | 72.7 g | C(C)(=O)NC1=NC=CC(=N1)C=CC1=CC=C(C=C1)[N+](=O)[O-] | C14H12N4O3
